US04727145
methylimidazo[1,2-a]pyridine
4-Methyl-2-aminopyridine (1.4 g, 12.5 mmol) was reacted with β-bromo-α-keto-(4-chloropropoxy)propiophenone as described in Example 8. The resulting product was reacted with dibutylamine as described in Example 8 to produce 2.9 g (75% yield) of the free base of the title compound which was converted to the HCl salt, mp 210° C. to 212° C. IR(KBr): 3460, 2640, 1650 cm-1. MS: 421 (M+). 1H NMR (CD3OD): δ8.89 (s, 1H), 8.77 (d, J=7.5 Hz, 2H), 8.12 (d, J=8.9 Hz, 2H), 7.77 (s, 1H), 7.48 (d, J=7.5 Hz, 2H), 7.20 (d, J=8.9 Hz, 2H), 4.30 (t, J=5.7 Hz, 2H), 3.38-3.16 (m, 6H), 2.65 (s, 3H), 2.35 (m, 2H), 1.81-1.34 (m, 8H), 1.02 (m, 6H).

reactant | 4-Methyl-2-aminopyridine | 12.5 mmol, 1.4 g | CC1=CC(=NC=C1)N | C6H8N2
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | methylimidazo[1,2-a]pyridine | CC=1N=C2N(C=CC=C2)C1 | C8H8N2
